US08877970B2
A solution of (S)-methyl 4-(tert-butoxycarbonylamino)-5-((S)-1-(4-iodobenzylamino)-5-methoxy-1,5-dioxopentan-2-ylamino)-5-oxopentanoate (0.448 g, 0.723 mmol) in DCM (10 mL) and TFA (4.0 mL) was stirred at room temperature overnight. After the solvent was evaporated, the reaction mixture was diluted with DCM, washed with sat. K2CO3 and concentrated in vacuo to afford (S)-methyl 4-amino-5-((S)-1-(4-iodobenzylamino)-5-methoxy-1,5-dioxopentan-2-ylamino)-5-oxopentanoate. A solution of the above product ((S)-methyl 4-amino-5-((S)-1-(4-iodobenzylamino)-5-methoxy-1,5-dioxopentan-2-ylamino)-5-oxopentanoate), 4-isothiocyanatobenzenesulfonamide (0.171 g, 0.80 mmol) in acetonitrile (10 mL) containing DIPEA (0.40 mL) was stirred at room temperature under nitrogen for 48 h. The solvent was evaporated under reduced pressure to give a crude product, which was purified by flash chromatography 5% MeOH in DCM as eluent to give (S)-methyl 5-(4-iodobenzylamino)-4-((S)-5-methoxy-5-oxo-2-(3-(4-sulfamoylphenyl)thioureido)pentanamido)-5-oxopentanoate (0.469 g) as a white solid. MS (ESI), 756 (M+Na)+, 377 (M/2+H)+.

reactant | (S)-methyl 4-amino-5-((S)-1-(4-iodobenzylamino)-5-methoxy-1,5-dioxopentan-2-ylamino)-5-oxopentanoate | N[C@@H](CCC(=O)OC)C(=O)N[C@H](C(=O)NCC1=CC=C(C=C1)I)CCC(=O)OC | C19H26IN3O6
reactant | 4-isothiocyanatobenzenesulfonamide | 0.80 mmol, 0.171 g | N(=C=S)C1=CC=C(C=C1)S(=O)(=O)N | C7H6N2O2S2
reactant | DIPEA | 0.40 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | acetonitrile | 10 mL | C(C)#N | C2H3N
product | (S)-methyl 5-(4-iodobenzylamino)-4-((S)-5-methoxy-5-oxo-2-(3-(4-sulfamoylphenyl)thioureido)pentanamido)-5-oxopentanoate | 0.469 g | IC1=CC=C(CNC([C@H](CCC(=O)OC)NC([C@H](CCC(=O)OC)NC(=S)NC2=CC=C(C=C2)S(N)(=O)=O)=O)=O)C=C1 | C26H32IN5O8S2
